US08633313B2
A solution of 1-(2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)ethanol (0.0260 g, 0.0969 mmol), triphenylphosphine (0.0508 g, 0.194 mmol), phthalimide (0.0285 g, 0.194 mmol), and tetrahydrofuran (1.29 mL, 0.0969 mmol) was stirred at room temperature for 5 min to dissolve all reactants. The mixture was then cooled to 0° C. and to the cooled homogenous mixture was added dropwise diisopropyl azodicarboxylate (0.0382 mL, 0.194 mmol) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred at room temperature for 1.5 h. After 1.5 h, the mixture was concentrated under reduced pressure and partitioned between EtOAc (50 mL) and brine (50 mL). The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 12 g of Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 11 min and 100% isocratic of EtOAc for 25 min as eluent to give 2-(1-(2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)ethyl)-1H-isoindole-1,3(2H)-dione as a white solid: LC-MS (ESI) m/z 397.9 [M+H]+.

reactant | 1-(2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)ethanol | 0.0969 mmol, 0.0260 g | FC=1C=C(C=CC1)C1=NC2=CC=CN=C2C=C1C(C)O | C16H13FN2O
reactant | triphenylphosphine | 0.194 mmol, 0.0508 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 0.194 mmol, 0.0285 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | tetrahydrofuran | 0.0969 mmol, 1.29 mL | O1CCCC1 | C4H8O
reactant | diisopropyl azodicarboxylate | 0.194 mmol, 0.0382 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 2-(1-(2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)ethyl)-1H-isoindole-1,3(2H)-dione | FC=1C=C(C=CC1)C1=NC2=CC=CN=C2C=C1C(C)N1C(C2=CC=CC=C2C1=O)=O | C24H16FN3O2
